US04496584
To a solution of 2.1 g of caproic acid in 50 ml of anhydrous pyridine, while being cooled in ice, was added 4.4 g of DCC. After stirring for 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added to the mixture and further stirred overnight at room temperature. The precipitate formed upon addition of ethyl ether to the reaction mixture was collected by filtration, washed with ethyl ether, dissolved in methanol at room temperature, and filtered to remove the insolubles. The filtrate was concentrated under reduced pressure and the residue was recrystallized from an ethanol-ether mixture to obtain 2.1 g of 6-amidino-2-naphthyl caproate methanesulfonate.

reactant | caproic acid | 2.1 g | C(CCCCC)(=O)O | C6H12O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl caproate methanesulfonate | 2.1 g | CS(=O)(=O)O.C(CCCCC)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C17H20N2O2.CH4O3S/c1-2-3-4-5-16(20)21-15-9-8-12-10-14(17(18)19)7-6-13(12)11-15;1-5(2,3)4/h6-11H,2-5H2,1H3,(H3,18,19);1H3,(H,2,3,4)
